US07872009B2
Step 1: Methyl 5-bromo-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate
A mixture of methyl 5-bromo-6-oxo-1,6-dihydropyridine-3-caboxylate (1.5 g, 6.5 mmol) and potassium carbonate (0.99 g, 7.15 mmol) in DMF (25 mL) was stirred at room temperature for 15 min followed by the addition of methyl iodide (0.42 mL, 6.83 mmol). The resulting suspension was stirred at room temperature for 17 h. The mixture was partitioned between ethylacetate and water. The organic phase was separated and the aqueous phase was extracted with ethylacetate. The organic extracts were combined, washed with brine, dried over MgSO4 and concentrated to afford the title compound as a light yellow solid. MS m/z: 246(M+1).

reactant | methyl 5-bromo-6-oxo-1,6-dihydropyridine-3-caboxylate | 6.5 mmol, 1.5 g | BrC1=CC(=CNC1=O)C(=O)OC | C7H6BrNO3
reactant | potassium carbonate | 7.15 mmol, 0.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 6.83 mmol, 0.42 mL | CI | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Methyl 5-bromo-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | BrC1=CC(=CN(C1=O)C)C(=O)OC | C8H8BrNO3
